US03931407
a. 2-(p-Bromophenacyl)cyclopentanone ##SPC92##
(0.18 mole) of 1-pyrrolidino-1-cyclopentene and 50 g. (0.18 mole) of p-bromophenacyl bromide by the method described in Example 39a gave 20.8 g. (41%) of crystals, m.p. 59°-61° (from ethanol).

reactant | 1-pyrrolidino-1-cyclopentene | 0.18 mole | N1(CCCC1)C1=CCCC1 | C9H15N
reactant | p-bromophenacyl bromide | 0.18 mole | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | ethanol | C(C)O | C2H6O
product | 2-(p-Bromophenacyl)cyclopentanone | BrC1=CC=C(C(CC2C(CCC2)=O)=O)C=C1 | C13H13BrO2
